US09334263B2
A solution of 5-bromo-2-chloropyrimidin-4-ol (6.5 g, 31 mmol), tert-butyl piperazine-1-carboxylate (6.5 g, 35 mmol) in propan-2-ol (200 mL) and diisopropylethylamine (10 mL) was stirred at 80° C. overnight. The mixture was cooled to RT and then concentrated. The residue was purified by silica gel chromatography eluting with ethyl acetate:petroleum ether (100:1) to give tert-butyl 4-(5-bromo-4-hydroxypyrimidin-2-yl)piperazine-1-carboxylate (9 g, 80%) as a yellow solid. MS (ES+) C13H19BrN4O3 requires: 358, 360, found: 303, 305 [M+H-56]+.

reactant | 5-bromo-2-chloropyrimidin-4-ol | 31 mmol, 6.5 g | BrC=1C(=NC(=NC1)Cl)O | C4H2BrClN2O
reactant | tert-butyl piperazine-1-carboxylate | 35 mmol, 6.5 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | propan-2-ol | 200 mL | CC(C)O | C3H8O
solvent | diisopropylethylamine | 10 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | tert-butyl 4-(5-bromo-4-hydroxypyrimidin-2-yl)piperazine-1-carboxylate | 9 g, 80% | BrC=1C(=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)O | C13H19BrN4O3
